US04732901
(E)-3-[5-(1-Octynyl)-2-thienyl]prop-2-enoic acid
Reaction of 5-(1-octynyl)-2-thiophene carboxaldehyde (880 mg, 4 mmole) with malonic acid as described in Example 2 yielded 0.98 g (93.5%) of the title compound after recrystallization from hexane mp 79° C.; νmax (mull) 2600 (broad), 1690, 1670, 1610, 940, 845, 800; δ(CDCl3) 0.90(3H, t, J=6 Hz), 1.50(8H, m), 2.40(2H, t, J=6 Hz), 6.15(1H, d, J=15 Hz), 7.05(1H, d, J=4.5 Hz), 7.13(1H, d, J=4.5 Hz), 7.85(1H, d, J=15 Hz), 11.3(1H, bs). M+ 262.1022 C15H15O2S requires 262.1027. Found; C, 68.96; H, 7.14; C15H15O2S requires; C, 68.68; H, 6.92.

reactant | 5-(1-octynyl)-2-thiophene carboxaldehyde | 4 mmole, 880 mg | C(#CCCCCCC)C1=CC=C(S1)C=O | C13H16OS
reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
product | (E)-3-[5-(1-Octynyl)-2-thienyl]prop-2-enoic acid | 0.98 g, 93.5% | C(#CCCCCCC)C1=CC=C(S1)/C=C/C(=O)O | C15H18O2S
